US07368578B2
To a mixture of 3-{[3-methoxy-4-(5-methyl-2-phenyl-1,3-oxazol-4-ylmethoxy)benzyl]oxy}-1-phenyl-1H-pyrazole-4-carbaldehyde (1.00 g), ethyl diethylphosphonoacetate (0.50 g) and N,N-dimethylformamide (15 mL) was added sodium hydride (60% in oil, 100 mg) at 0° C., and the mixture was stirred overnight at room temperature. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed successively with dilute hydrochloric acid and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give ethyl (E)-3-(3-{[3-methoxy-4-(5-methyl-2-phenyl-1,3-oxazol-4-ylmethoxy)benzyl]oxy}-1-phenyl-1H-pyrazol-4-yl)-2-propenoate (1.08 g, yield 95%) as colorless crystals from a fraction eluted with ethyl acetate-hexane (1:4, v/v). The crystals were recrystallized from tetrahydrofuran-hexane. melting point: 194-195° C.

reactant | 3-{[3-methoxy-4-(5-methyl-2-phenyl-1,3-oxazol-4-ylmethoxy)benzyl]oxy}-1-phenyl-1H-pyrazole-4-carbaldehyde | 1.00 g | COC=1C=C(COC2=NN(C=C2C=O)C2=CC=CC=C2)C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1 | C29H25N3O5
reactant | ethyl diethylphosphonoacetate | 0.50 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 100 mg | [H-].[Na+]
solvent | water | O | H2O
product | ethyl (E)-3-(3-{[3-methoxy-4-(5-methyl-2-phenyl-1,3-oxazol-4-ylmethoxy)benzyl]oxy}-1-phenyl-1H-pyrazol-4-yl)-2-propenoate | 1.08 g, yield 95% | COC=1C=C(COC2=NN(C=C2/C=C/C(=O)OCC)C2=CC=CC=C2)C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1 | C33H31N3O6
